US06998068B2
Synthesis of 2-chlorotetracene
A 2-necked, 500 mL round-bottomed flask was fitted with a distillation head and receiver, and charged with 2-chloro-5,12-tetracenequinone (11.5 g, 39.4 mmol), cyclohexanol (100 mL), and Al(O-sec-Bu)3 (50 mL) under nitrogen. The mixture was heated until distillate began collecting in the receiver at a pot temperature of ca. 115° C. The distillation was continued until the temperature of the dark orange mixture reached 162° C., and the solution was then heated at 159° C. for 36 h. The mixture was cooled to 50° C., an equal volume of dry THF was added, and then it was heated up to 80° C. and stirred. The hot mixture was poured onto a 10–20 μm frit to isolate a bright orange solid that was washed with water (150 mL), 5% HCl (150 mL), and additional water (150 mL). The filtrate was mixed with some additional water and conc. HCL, stirred, and allowed to sit overnight. The solid was air-dried for a couple of hours to afford 5.04 g of material. Purification by gradient sublimation at 130–150° C. afforded 4.0 g of fluorescent orange product. An additional crop of crude material was isolated from the filtrate above and afforded another 1.37 g after sublimation. Net yield 52%. DSC (20° C./min): 361° C. (ΔH=96 Jg−, decomp). EIMS: 262 ([M]+, 100%), 226 ([M-HCl]+, 23%). Anal. Calcd. for C18H11Cl: C, 82.3; H, 4.22. Found: C, 82.5; H, 4.27.

reactant | 2-chloro-5,12-tetracenequinone | 39.4 mmol, 11.5 g | ClC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C18H9ClO2
reactant | cyclohexanol | 100 mL | C1(CCCCC1)O | C6H12O
solvent | Al(O-sec-Bu)3 | 50 mL | [Al](OC(C)CC)(OC(C)CC)OC(C)CC
product | 2-chlorotetracene | 5.04 g | ClC1=CC2=CC3=CC4=CC=CC=C4C=C3C=C2C=C1 | C18H11Cl
